US06187842B1
A 500 ml four-necked flask was charged with a 70 wt % aqueous solution of 120 g (0.55 mole) of D-xylitol, 73.7 g (0.55 mole) of 3,4-dimethylbenzaldehyde and 12 g of 50 wt % sulfuric acid. The air inside the system was replaced with nitrogen gas. The contents of the flask were stirred at a temperature of 21° C. for 6 hours. The obtained reaction mixture was analyzed by GC. It was found that mono(3,4-dimethylbenzylidene)-D-xylitol was produced in a yield of 70% and 0.5% or less of bis(3,4-dimethylbenzylidene)-D-xylitol was also produced. After standing 24 hours, the reaction mixture was neutralized for 2 hours using 8.6 g of potassium hydroxide, and filtered to obtain cake. The cake was dispersed in 150 ml of toluene and was filtered again. After drying at 100° C. under a pressure ranging from normal pressure to 5 mmHg for 7 hours, 44.5 g of 2,4-O-(3,4-dimethylbenzylidene)-D-xylitol was obtained with a purity of 99.2% as measured by GC (yield 30.1%). The product had a melting point of 179.5 to 180.0° C.

reactant | D-xylitol | 0.55 mole, 120 g | C([C@H](O)[C@@H](O)[C@H](O)CO)O | C5H12O5
reactant | 3,4-dimethylbenzaldehyde | 0.55 mole, 73.7 g | CC=1C=C(C=O)C=CC1C | C9H10O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | mono(3,4-dimethylbenzylidene)-D-xylitol | CC=1C=C(C=C([C@H](O)[C@@H](O)[C@H](O)CO)O)C=CC1C | C14H20O5
product | bis(3,4-dimethylbenzylidene)-D-xylitol | 0.5% or less | CC=1C=C(C=C([C@H]([C@@H]([C@H](C(O)=CC2=CC(=C(C=C2)C)C)O)O)O)O)C=CC1C | C23H28O5
